US08487108B2
To a solution of EtNH2 in alcohol (30% by weight, 10 mL) was added (3R)-tert-butyl 3-((3-chlorophenyl)(2-ethoxy-2-oxoethoxy)methyl)piperidine-1-carboxylate (100 mg, 0.243 mmol). The mixture was stirred at rt overnight. The mixture was concentrated under vacuum to give crude product, which was purified by preparative tlc (elution solvent: 5:1 petroleum ether/EtOAc) to give (3R)-tert-butyl 3-((3-chlorophenyl)(2-(ethylamino)-2-oxoethoxy)methyl)piperidine-1-carboxylate (57.9 mg. 58%) as a colorless oil. MS (E/Z): 411 (M+H+).

reactant | EtNH2 | C(C)N | C2H7N
reactant | (3R)-tert-butyl 3-((3-chlorophenyl)(2-ethoxy-2-oxoethoxy)methyl)piperidine-1-carboxylate | 0.243 mmol, 100 mg | ClC=1C=C(C=CC1)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCC(=O)OCC | C21H30ClNO5
product | (3R)-tert-butyl 3-((3-chlorophenyl)(2-(ethylamino)-2-oxoethoxy)methyl)piperidine-1-carboxylate | 57.9 mg, 58% | ClC=1C=C(C=CC1)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCC(=O)NCC | C21H31ClN2O4
